US04616086
Ethyl 4-{2-[1-(3-(3,5-di-tert.-butyl-4-hydroxyphenyl)-propionyl)-piperazin-4-yl]-ethyl}-benzoate
This is prepared analogously to Example 12 from ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate, 3-(3,5-di-tert.-butyl-4-hydroxyphenyl)-propionic acid, phosphorus trichloride and pyridine. Yield 62% of theory; m.p. 105°-107° C. (recrystallised from ethyl acetate/ligroin).

reactant | ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate | N1(CCNCC1)CCC1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | 3-(3,5-di-tert.-butyl-4-hydroxyphenyl)-propionic acid | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)O | C17H26O3
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-{2-[1-(3-(3,5-di-tert.-butyl-4-hydroxyphenyl)-propionyl)-piperazin-4-yl]-ethyl}-benzoate | Yield 62% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)N1CCN(CC1)CCC1=CC=C(C(=O)OCC)C=C1 | C32H46N2O4
